US07208633B2
bis(m-tolyl)phosphine-borane complex
Under a nitrogen stream, a solution of cerium chloride (26.40 g, 3.00 equivalents) in THF (220 mL) was stirred at room temperature (25° C.) for 30 min. Sodium borohydride (4.06 g, 3.00 equivalents) was added, and the mixture was stirred at room temperature for 1.5 hrs. Then bis(m-tolyl)phosphine oxide (8.22 g, 35.7 mmol) synthesized in Reference Example 17 and lithium aluminum hydride (2.06 g, 1.22 equivalents) were successively added at −9° C. and the mixture was stirred for 3 hrs. 6M-HCl (33 mL) was added at −3° C., then water (33 mL) was added and toluene (130 mL) was added at 4° C. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the organic layer was washed successively with water (50 mL), 10% aqueous NaHCO3 solution (50 mL) and 10% aqueous NaCl solution (50 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and further passed through a membrane filter (0.2 μm) under reduced pressure. A borane-THF complex (36 mL, 1.02 equivalents) was added to the filtrate at around 0° C. and the mixture was stirred at room temperature for 13.5 hrs. A borane-THF complex (6.2 mL, 0.18 equivalent) was further added at room temperature, and the mixture was concentrated under reduced pressure. The residue was recrystallized from n-hexane and dried (reduced pressure, 40° C.) to give the title compound (1.70 g, white powder). yield 21%

reactant | cerium chloride | 26.40 g, 3.00 equivalents | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium borohydride | 4.06 g, 3.00 equivalents | [BH4-].[Na+]
reactant | bis(m-tolyl)phosphine oxide | 35.7 mmol, 8.22 g | C1(=CC(=CC=C1)P(C=1C=C(C=CC1)C)=O)C | C14H15OP
reactant | lithium aluminum hydride | 2.06 g, 1.22 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 33 mL | Cl | ClH
solvent | THF | 220 mL | C1CCOC1 | C4H8O
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 33 mL | O | H2O
product | bis(m-tolyl)phosphine borane | 1.70 g, yield 21% | C1(=CC(=CC=C1)PC=1C=C(C=CC1)C)C.B | InChI=1S/C14H15P.BH3/c1-11-5-3-7-13(9-11)15-14-8-4-6-12(2)10-14;/h3-10,15H,1-2H3;1H3
